US07700605B2
A solution of {2-[3′-(2-cyano-pyrimidin-4-yloxy)-biphenyl-4-yl]-ethyl}carbamic acid tert-butyl ester (38 mg) in formic acid (0.35 ml) is stirred at rt for 1 h. This solution is evaporated under reduced pressure. The remaining oil is treated with diethyl ether to obtain crystals of 4-(4′-aminoethyl-biphenyl-3-yloxy)-pyrimidine-2-carbonitrile as salt with formic acid.

reactant | {2-[3′-(2-cyano-pyrimidin-4-yloxy)-biphenyl-4-yl]-ethyl}carbamic acid tert-butyl ester | 38 mg | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)C1=CC(=CC=C1)OC1=NC(=NC=C1)C#N)=O | C24H24N4O3
solvent | formic acid | 0.35 ml | C(=O)O | CH2O2
product | 4-(4′-aminoethyl-biphenyl-3-yloxy)-pyrimidine-2-carbonitrile | NCCC1=CC=C(C=C1)C1=CC(=CC=C1)OC1=NC(=NC=C1)C#N | C19H16N4O
